US04552876
1,5-Bis[2H-1,4-benzoxazine-3(4H)-one-6yl]pentane
To a suspension of 1.5 g of 1,5-bis(3-amino-4-hydroxyphenyl)pentane (0.0052 mol) in 7 ml of isobutyl methyl ketone was added 1.05 g (0.0125 mole) of sodium bicarbonate and 5 ml of water. The suspension was stirred in an ice bath and 1.4 g (0.0124 mole) of chloroacetyl chloride was added dropwise. After addition, the mixture was allowed to come to room temperature and then was refluxed for 4 hours. After cooling, the resulting crystalline solid was filtered and washed with acetone to yield 0.4 g of off-white product of m.p. 189°-190° C.

reactant | 1,5-bis(3-amino-4-hydroxyphenyl)pentane | 0.0052 mol, 1.5 g | NC=1C=C(C=CC1O)CCCCCC1=CC(=C(C=C1)O)N | C17H22N2O2
reactant | sodium bicarbonate | 0.0125 mole, 1.05 g | C([O-])(O)=O.[Na+]
reactant | water | 5 ml | O | H2O
reactant | chloroacetyl chloride | 0.0124 mole, 1.4 g | ClCC(=O)Cl | C2H2Cl2O
reactant | isobutyl methyl ketone | 7 ml | CC(=O)CC(C)C | C6H12O
product | 1,5-Bis[2H-1,4-benzoxazine-3(4H)-one-6yl]pentane | 0.4 g | O1CC(NC2=C1C=CC(=C2)CCCCCC=2C=CC1=C(NC(CO1)=O)C2)=O | C21H22N2O4
